US07538114B2
To a solution of tert-butyl 2-((R)-2-methyl-4-((S)-phenyl(4-(2-phenylethynyl)phenyl)-methyl)piperazin-1-yl)acetate (320 mg, 0.666 mmol) in THF/MeOH/H2O=5:5:1 (5.5 mL) was added lithium hydroxide monohydrate (279 mg, 6.658 mmol) and the resulting solution was stirred overnight. The solvent was evaporated to dryness under high vacuum and the residue was diluted with water, adjusted pH=5, extracted with DCM, dried over Na2SO4, filtered and evaporated to dryness. The residue was loaded onto flash column (SiO2, DCM to DCM/MeOH=100:5 to 100:10 to 100:15 to 100:20) to give 2-((R)-2-methyl-4-((S)-phenyl(4-(2-phenylethynyl)phenyl)methyl)piperazin-1-yl)acetic acid (240 mg) as a white solid.

reactant | tert-butyl 2-((R)-2-methyl-4-((S)-phenyl(4-(2-phenylethynyl)phenyl)-methyl)piperazin-1-yl)acetate | 0.666 mmol, 320 mg | C[C@H]1N(CCN(C1)[C@H](C1=CC=C(C=C1)C#CC1=CC=CC=C1)C1=CC=CC=C1)CC(=O)OC(C)(C)C | C32H36N2O2
reactant | lithium hydroxide monohydrate | 6.658 mmol, 279 mg | O.[OH-].[Li+]
solvent | THF MeOH H2O | C1CCOC1.CO.O
product | 2-((R)-2-methyl-4-((S)-phenyl(4-(2-phenylethynyl)phenyl)methyl)piperazin-1-yl)acetic acid | 240 mg | C[C@H]1N(CCN(C1)[C@H](C1=CC=C(C=C1)C#CC1=CC=CC=C1)C1=CC=CC=C1)CC(=O)O | C28H28N2O2
